### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): more on nondegenerate simplices of the standard simplex

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 1]
```diff
@@ -237,12 +243,32 @@ lemma face_inter_face {n : ℕ} (S₁ S₂ : Finset (Fin (n + 1))) :
...
+    face.{u} (∅ : Finset (Fin (n + 1))) = ⊥ := by
+  ext
+  simpa using Finset.univ_neq_empty _
+
+@[simp]
+lemma face_univ (n : ℕ) :
+    face.{u} (.univ : Finset (Fin (n + 1))) = ⊤ := by
+  ext
+  dsimp
+  simp only [Set.mem_univ, iff_true]
```
Comment (FernandoChu) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
  simp only [Subfunctor.top_obj, Set.top_eq_univ, Set.mem_univ, iff_true]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Simplices.lean [hunk 2]
```diff
@@ -102,6 +102,14 @@ lemma ext_iff {n : ℕ} (x y : X _⦋n⦌) :
 /-- The subcomplex generated by a simplex. -/
 abbrev subcomplex (s : X.S) : X.Subcomplex := Subcomplex.ofSimplex s.simplex
 
+lemma ofSimplex_eq_subcomplex_mk {n : ℕ} (x : X _⦋n⦌) :
+    Subcomplex.ofSimplex x = (S.mk x).subcomplex := rfl
+
+@[simp]
+lemma subcomplex_cast (s : X.S) {d : ℕ} (hd : s.dim = d) :
+    (s.cast hd).subcomplex = s.subcomplex := by
+  rw [cast_eq_self]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/Simplices.lean:111]: Is this used in this PR? it will also be added by #37335

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 3]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
   stdSimplex.isoOfRepresentableBy
     (stdSimplex.faceRepresentableBy.{u} _ _ (Fin.orderIsoPair i j hij))
 
+set_option backward.isDefEq.respectTransparency false in
+variable (n) in
+lemma bijective_image_objEquiv_toOrderHom_univ (m : ℕ) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]: Given that this lemma is rather specific, with some "ugly" function (it involves a match arm),
I think this lemma should be made private, the definition of `nonDegenerateEquiv'` would then
be `no_expose`'d, and then only characterizing lemmas would be accessible publicly.

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 4]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+    simpa using congr_fun (congrArg Membership.mem h₃) x
+  · intro ⟨S, hS⟩
+    dsimp at hS
+    let e := monoEquivOfFin S (k := m + 1) (by simpa using hS)
+    refine ⟨⟨objMk ((OrderHom.Subtype.val _).comp (e.toOrderEmbedding.toOrderHom)), ?_⟩, ?_⟩
+    · rw [mem_nonDegenerate_iff_mono, SimplexCategory.mono_iff_injective]
+      intro a b h
+      apply e.injective
+      ext : 1
+      exact h
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]: `grind` understands injectivity now.
```suggestion
      grind [e.injective, dsimp% h]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 5]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+    simp only [Set.mem_setOf_eq, SimplexCategory.len_mk, Equiv.apply_symm_apply,
+      Subtype.mk.injEq, EmbeddingLike.apply_eq_iff_eq] at h₃ ⊢
+    apply SimplexCategory.Hom.ext
+    rw [← OrderHom.range_eq_iff h₁ h₂]
+    ext x
+    simpa using congr_fun (congrArg Membership.mem h₃) x
+  · intro ⟨S, hS⟩
+    dsimp at hS
+    let e := monoEquivOfFin S (k := m + 1) (by simpa using hS)
+    refine ⟨⟨objMk ((OrderHom.Subtype.val _).comp (e.toOrderEmbedding.toOrderHom)), ?_⟩, ?_⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    refine ⟨⟨objMk ((OrderHom.Subtype.val _).comp e.toOrderEmbedding.toOrderHom), ?_⟩, ?_⟩
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 6]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+
+/-- Nondegenerate `d`-dimensional simplices of the standard simplex `Δ[n]`
+identify to subsets of `Fin (n + 1)` of cardinality `d + 1`. -/
+noncomputable def nonDegenerateEquiv' {n d : ℕ} : (Δ[n] : SSet.{u}).nonDegenerate d ≃
+    { S : Finset (Fin (n + 1)) | S.card = d + 1 } :=
+  Equiv.ofBijective _ (bijective_image_objEquiv_toOrderHom_univ n d)
+
+set_option backward.isDefEq.respectTransparency false in
+lemma nonDegenerateEquiv'_iff {n d : ℕ} (x : (Δ[n] : SSet.{u}).nonDegenerate d) (j : Fin (n + 1)) :
+    j ∈ (nonDegenerateEquiv' x).1 ↔ ∃ (i : Fin (d + 1)), x.1 i = j := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    j ∈ (nonDegenerateEquiv' x).val ↔ ∃ (i : Fin (d + 1)), x.val i = j := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 7]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+  simp only [Set.mem_setOf_eq, Set.coe_setOf]
+  dsimp [nonDegenerateEquiv']
+  aesop
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If `x` is a nondegenerate `d`-simplex of `Δ[n]`, this is the order isomorphism
+between `Fin (d + 1)` and the corresponding subset of `Fin (n + 1)` of cardinality `d + 1`. -/
+noncomputable def orderIsoOfNonDegenerate {n d : ℕ} (x : (Δ[n] : SSet.{u}).nonDegenerate d) :
+    Fin (d + 1) ≃o (nonDegenerateEquiv' x).1 where
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    Fin (d + 1) ≃o nonDegenerateEquiv' x where
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 8]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+    simp only [Subtype.mk_le_mk]
+    constructor
+    · rw [← not_lt, ← not_lt]
+      intro h h'
+      apply h
+      obtain h'' | h'' := (monotone_apply x.1 h'.le).lt_or_eq
+      · assumption
+      · simp only [this h'', lt_self_iff_false] at h'
+    · intro h
+      exact monotone_apply _ h
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    have := (mem_nonDegenerate_iff_mono x.val).mp x.prop
    rw [SimplexCategory.mono_iff_injective] at this
    intro a b
    constructor
    · rw [← not_lt, ← not_lt]
      intro h h'
      apply h
      obtain h'' | h'' := (monotone_apply x.val h'.le).lt_or_eq
      · assumption
      · simp only [this h'', lt_self_iff_false] at h'
    · intro h
      exact monotone_apply _ h
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 9]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+
+lemma face_nonDegenerateEquiv' {n d : ℕ} (x : (Δ[n] : SSet.{u}).nonDegenerate d) :
+    face (nonDegenerateEquiv' x).1 = Subcomplex.ofSimplex x.1 :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    face (nonDegenerateEquiv' x).val = Subcomplex.ofSimplex x.val :=
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 10]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+  face_eq_ofSimplex.{u} _ _ (orderIsoOfNonDegenerate x)
+
+set_option backward.isDefEq.respectTransparency false in
+lemma nonDegenerateEquiv'_symm_apply_mem {n d : ℕ}
+    (S : { S : Finset (Fin (n + 1)) | S.card = d + 1 }) (i : Fin (d + 1)) :
+      (nonDegenerateEquiv'.{u}.symm S).1 i ∈ S.1 := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
      (nonDegenerateEquiv'.{u}.symm S).val i ∈ S.val := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean [hunk 11]
```diff
@@ -447,6 +473,100 @@ noncomputable def facePairIso {n : ℕ} (i j : Fin (n + 1)) (hij : i < j) :
...
+  obtain ⟨f, rfl⟩ := nonDegenerateEquiv'.{u}.surjective S
+  dsimp [nonDegenerateEquiv']
+  simp only [Equiv.ofBijective_symm_apply_apply, Finset.mem_image, Finset.mem_univ, true_and]
+  exact ⟨i, rfl⟩
+
+lemma nonDegenerateEquiv'_symm_mem_iff_face_le {n d : ℕ}
+    (S : { S : Finset (Fin (n + 1)) | S.card = d + 1 })
+    (A : (Δ[n] : SSet.{u}).Subcomplex) :
+    (nonDegenerateEquiv'.symm S).1 ∈ A.obj _ ↔ face S ≤ A := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]:
```suggestion
    (nonDegenerateEquiv'.symm S).val ∈ A.obj _ ↔ face S ≤ A := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Simplices.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/Simplices.lean:111]: Ah, I am sorry for the duplicate, I have removed this from this PR.

File: Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/StdSimplex.lean]: Thanks for the suggestion!

**Review by FernandoChu — COMMENTED** [review]
slight golf

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
